US09079911B2
Step A: 2-Fluoro-6-iodo-benzoic acid methyl ester.
To a 200 mL round-bottomed flask were added 2-fluoro-6-iodo-benzoic acid (7.5 g, 28.2 mmol), LiOH.H2O (1.42 g, 33.8 mmol), and THF (100 mL). The resulting mixture was warmed to 50° C. and stirred for 2 h. Dimethyl sulfate (4.03 mL, 42.3 mmol) was then added and the mixture was warmed to 65° C. After 2 h, the mixture was cooled to room temperature and NH4Cl(aq) (50 mL, 13 wt % solution) was added. The two resulting layers were thoroughly mixed and then separated. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to a light brown oil (7.79 g, 99% yield). 1H NMR (400 MHz, CDCl3): 7.68-7.60 (m, 1H), 7.15-7.06 (m, 2H), 3.98 (s, 3H).

reactant | 2-fluoro-6-iodo-benzoic acid | 28.2 mmol, 7.5 g | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
reactant | LiOH.H2O | 33.8 mmol, 1.42 g | O[Li].O
reactant | Dimethyl sulfate | 42.3 mmol, 4.03 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-6-iodo-benzoic acid methyl ester | 7.79 g, 99% yield | COC(C1=C(C=CC=C1I)F)=O | C8H6FIO2
